US07919504B2
(2S, R)-2-((S)-(tert-Butyldimethylsilyloxy)(4-(trifluoromethyl)phenyl)methyl)-5-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine:
To a solution of (S)-((2S,5R)-5-isopropyl-3,6-dimethoxy-2,5-dihydropyrazin-2-yl)(4-(trifluoromethyl)phenyl)methanol (3.5 g, 9.8 mmol), and imidazole (0.8 g, 11.8 mmol) in CH2Cl2 (50 mL) was added tert-butylchlorodimethylsilane (1.6 g, 10.4 mmol) and TEA (1.6 mL, 11.8 mmol) at room temperature. The mixture was stirred over the weekend. The mixture was diluted with DCM and washed with water, saturated NaHCO3, and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude residue was purified by chromatography on silica gel (40-50% DCM-hexane) to provide the product as a white solid (3.4 g, 74%). LCMS (API-ES) m/z: 473 (M+H+).

reactant | (S)-((2S,5R)-5-isopropyl-3,6-dimethoxy-2,5-dihydropyrazin-2-yl)(4-(trifluoromethyl)phenyl)methanol | 9.8 mmol, 3.5 g | C(C)(C)[C@H]1N=C([C@@H](N=C1OC)[C@@H](O)C1=CC=C(C=C1)C(F)(F)F)OC | C17H21F3N2O3
reactant | imidazole | 11.8 mmol, 0.8 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 10.4 mmol, 1.6 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (2S, R)-2-((S)-(tert-Butyldimethylsilyloxy)(4-(trifluoromethyl)phenyl)methyl)-5-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine | 3.4 g, 74% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@@H]1N=C([C@H](N=C1OC)C(C)C)OC)C1=CC=C(C=C1)C(F)(F)F | C23H35F3N2O3Si
